US08877945B2
Oseltamivir Boc-Amide
To a room temperature stirring solution of oseltamivir (1.5 g, 4.81 mmol) in anhydrous methanol (50 mL) under inert atmosphere was added di-tert-butyl dicarbonate (1.15 g, 1.1 eq.) and triethylamine (2 mL). After four hours, the crude mixture was concentrated under reduced pressure and subjected to flash column chromatography (30% methanol/dichloromethane) to afford the product as a white solid (1.6 g, 90%).

reactant | oseltamivir | 4.81 mmol, 1.5 g | CCC(CC)O[C@@H]1C=C(C[C@@H]([C@H]1NC(=O)C)N)C(=O)OCC | C16H28N2O4
reactant | di-tert-butyl dicarbonate | 1.15 g, 1.1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 mL | CO | CH4O
product | Oseltamivir Boc-Amide | 1.6 g, 90% | CCC(CC)O[C@@H]1C=C(C[C@@H]([C@H]1NC(=O)C)N)C(=O)OCC.C(=O)(OC(C)(C)C)[NH-] | InChI=1S/C16H28N2O4.C5H11NO2/c1-5-12(6-2)22-14-9-11(16(20)21-7-3)8-13(17)15(14)18-10(4)19;1-5(2,3)8-4(6)7/h9,12-15H,5-8,17H2,1-4H3,(H,18,19);1-3H3,(H2,6,7)/p-1/t13-,14+,15+;/m0./s1
